US06166006
In DMF (6 ml) was dissolved methyl 7-(1H-tetrazol-5-yl)-2,3-dihydro-1-benzoxepine-4-carboxylate (400 mg, 1.47 mmol),and to the mixture was added at 0° C. sodium hydride (60%, 90 mg, 2.3 mmol). The mixture was stirred at the same temperature for 15 minutes, and to the mixture was added at OC methyl iodide (0.28 ml, 4.4 mmol). While the temperature of the mixture was warmed from 0° C. to room temperature, the mixture was stirred for 3 hours. To the mixture was added at 0° C. water (30 ml), and the mixture was extracted with ethyl acetate. The organic layer was dried with anhydrous sodium sulfate and concentrated under reduced pressure. The residue was purified with column chromatography (silica gel 40 g, ethyl acetate/hexane=1/8→1/2), and the first eluted desired fraction was concentrated under reduced pressure to give methyl 7-(2-methyl-1H-tetrazol-5-yl)-2,3-dihydro-1-benzoxepine-4-carboxylate (334 mg, 1.17 mmol, 79%). The second eluted desired fraction was concentrated under reduced pressure to give methyl 7-(1-methyl-1H-tetrazol-5-yl)-2,3-dihydro-1-benzoxepine-4-carboxylate (76 mg, 0.27 mmol, 18%).

reactant | methyl 7-(1H-tetrazol-5-yl)-2,3-dihydro-1-benzoxepine-4-carboxylate | 1.47 mmol, 400 mg | N1N=NN=C1C=1C=CC2=C(C=C(CCO2)C(=O)OC)C1 | C13H12N4O3
reactant | sodium hydride | 2.3 mmol, 90 mg | [H-].[Na+]
reactant | methyl iodide | 4.4 mmol, 0.28 ml | CI | CH3I
reactant | water | 30 ml | O | H2O
solvent | DMF | 6 ml | CN(C)C=O | C3H7NO
product | methyl 7-(2-methyl-1H-tetrazol-5-yl)-2,3-dihydro-1-benzoxepine-4-carboxylate | 1.17 mmol, 334 mg, 79% | CN1NC(=NN1)C=1C=CC2=C(C=C(CCO2)C(=O)OC)C1 | C14H16N4O3
